US07557213B2
Preparation of 3-(4-Dimethylamino-benzoyl)-1-(6-methyl-pyridin-2-ylmethyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 6 of Example 60, from 138 mg (0.41 mmol) of 1-(6-methyl-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide in 2 mL THF and 2 mL 0.5M 4-N,N-dimethylanilinemagnesium bromide. Yield: 17 mg of a white solid. LC-MSD, m/z for C25H23N3O2 [M+H]+=398.1; HPLC retention time: 1.9 min.

reactant | 1-(6-methyl-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide | 0.41 mmol, 138 mg | CON(C(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=NC(=CC=C1)C)C | C19H19N3O3
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | bromide | 0.5M, 2 mL | [Br-]
product | 3-(4-Dimethylamino-benzoyl)-1-(6-methyl-pyridin-2-ylmethyl)-1H-quinolin-4-one | CN(C1=CC=C(C(=O)C2=CN(C3=CC=CC=C3C2=O)CC2=NC(=CC=C2)C)C=C1)C | C25H23N3O2
